US05516788
cis-5-Acetyl-4b,5,9b,10-Tetrahydro-4b,9b-dimethylindeno[1,2-b]indole.
4b,5,9b,10-tetrahydro-4b,9b-dimethylindeno[1,2-b]indole, (0.2 g, 0.85 mmol) was dissolved in acetic anhydride (1 cm3) and the solution stirred at room temperature for 16 hours. The reaction mixture was poured into saturated sodium bicarbonate solution and stirred for a further 1/2 hour. The mixture was then extracted with ether (3×15 cm3) and the combined organic extracts collected washed with brine, dried (Na2SO4) and evaporated to yield the title compound as an oil. This was purified by flash chromatography on silica gel eluting with 5-7% ethyl acetate/60°-80° petrol, to yield a colourless solid. Yield: 0.15 g, 64% .M.p. 81° C. 1H NMR (CDCl3) δ: 7.82 (1H, s), 6.99-7.29 (7H, m), 3.26 (1H, d, J=15.9 Hz), 2.97 (1H, d, J =15.9 Hz), 2.42 (3H, s), 1.77 (3H, s), 1.25 (3H, s).

reactant | 4b,5,9b,10-tetrahydro-4b,9b-dimethylindeno[1,2-b]indole | 0.85 mmol, 0.2 g | CC12NC=3C=CC=CC3C1(CC1=CC=CC=C12)C | C17H17N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 1 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | cis-5-Acetyl-4b,5,9b,10-Tetrahydro-4b,9b-dimethylindeno[1,2-b]indole | C(C)(=O)N1[C@]2([C@@](C=3C=CC=CC13)(CC1=CC=CC=C12)C)C | C19H19NO
